US07750003B2
1-[4-[4-[(3S)-3-Methylmorpholin-4-yl]-6-(morpholin-4-ylmethyl)pyrimidin-2-yl]phenyl]-3-phenyl-urea
1-[4-[4-(Hydroxymethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]-3-phenyl-urea (90 mg) was dissolved in DCM (5 mL) and triethylamine (0.045 mL) and the solution cooled to 0° C. Methane sulfonyl chloride (0.026 mL) was added and the reaction stirred for 1 h at RT. Morpholine (0.2 mL) was added and the reaction was left at RT for 72 hours before being concentrated in vacuo and purified by prep-HPLC (basic) to give the desired compound (64 mg) as a white solid.

reactant | 1-[4-[4-(Hydroxymethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]-3-phenyl-urea | 90 mg | OCC1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C23H25N5O3
reactant | triethylamine | 0.045 mL | C(C)N(CC)CC | C6H15N
reactant | Methane sulfonyl chloride | 0.026 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Morpholine | 0.2 mL | N1CCOCC1 | C4H9NO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-[4-[(3S)-3-Methylmorpholin-4-yl]-6-(morpholin-4-ylmethyl)pyrimidin-2-yl]phenyl]-3-phenyl-urea | 64 mg | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)CN1CCOCC1)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C27H32N6O3
